US05763191
16.2 g (0.1 mol) S-acetyl-mercaptopropionic acid, 12.7 g (0.11 mol) N-hydroxysuccinimide and 22.7 g (0.11 mol) dicyclohexylcarbodiimide are stirred in 0.4 l absolute ethyl acetate for 16 hours at 20° C. The precipitate which forms is filtered off and the filtrate is evaporated in a vacuum. The oily residue is taken up in a small amount of ethyl acetate and cooled. In this process further precipitate is formed which is discarded. This process is repeated twice. 13 g (50%) SATP is obtained from the last filtrate after evaporation.

reactant | S-acetyl-mercaptopropionic acid | 0.1 mol, 16.2 g | C(C)(=O)SC(C(=O)O)C | C5H8O3S
reactant | N-hydroxysuccinimide | 0.11 mol, 12.7 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 0.11 mol, 22.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ethyl acetate | 0.4 l | C(C)(=O)OCC | C4H8O2
product | SATP | 13 g, 50% | CC(=O)SCCC(=O)ON1C(=O)CCC1=O | C9H11NO5S
